US08580816B2
(a) N-(2,6-Dichloropyridin-3-yl)-4-methoxy-3,5-dimethylbenzamide
With ice cooling, a solution of 2.7 ml of absolute pyridine in 5 ml of dry dichloromethane was initially added dropwise to a solution of 5.00 g of 2,6-dichloropyridin-3-ylamine in 50 ml of dry dichloromethane. 6.70 g of 4-methoxy-3,5-dimethylbenzoyl chloride, dissolved in 15 ml of dry dichloromethane, were then added, and the reaction was stirred at 0° C. for 1 h and then at room temperature for 16 h. 10% strength aqueous sodium bisulfate solution was then added, and the mixture was stirred for 15 minutes. The phases were then separated, and the aqueous phase was extracted twice with dichloromethane. The collected organic phases were dried over sodium sulfate, filtered and concentrated under reduced pressure. This gave 10.00 g (100%) of the product, which was used for the next step without any further purification.

reactant | pyridine | 2.7 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,6-dichloropyridin-3-ylamine | 5.00 g | ClC1=NC(=CC=C1N)Cl | C5H4Cl2N2
reactant | 4-methoxy-3,5-dimethylbenzoyl chloride | 6.70 g | COC1=C(C=C(C(=O)Cl)C=C1C)C | C10H11ClO2
reactant | sodium bisulfate | S([O-])(O)(=O)=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-(2,6-Dichloropyridin-3-yl)-4-methoxy-3,5-dimethylbenzamide | ClC1=NC(=CC=C1NC(C1=CC(=C(C(=C1)C)OC)C)=O)Cl | C15H14Cl2N2O2
